US09340538B2
4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-3,6-dihydro-[2,2′-bipyrimidin]-4-yl)methyl)morpholine-2-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-1,4-dihydro-[2,2′-bipyrimidine]-5-carboxylate (0.72 g, 1.53 mmol) (The compound was synthesized according to the procedure as described in WO2010069147) was reacted with morpholine-2-carboxylic acid hydrochloride (0.26 g, 1.53 mmol) according to the procedure as described in Example 28 to give the title compound as a yellow solid (0.45 g, 56%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2,4-dichlorophenyl)-1,4-dihydro-[2,2′-bipyrimidine]-5-carboxylate | 1.53 mmol, 0.72 g | BrCC1=C(C(N=C(N1)C1=NC=CC=N1)C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C18H15BrCl2N4O2
reactant | morpholine-2-carboxylic acid hydrochloride | 1.53 mmol, 0.26 g | Cl.N1CC(OCC1)C(=O)O
product | 4-((6-(2,4-dichlorophenyl)-5-(ethoxycarbonyl)-3,6-dihydro-[2,2′-bipyrimidin]-4-yl)methyl)morpholine-2-carboxylic acid | 0.45 g, 56% | ClC1=C(C=CC(=C1)Cl)C1C(=C(NC(=N1)C1=NC=CC=N1)CN1CC(OCC1)C(=O)O)C(=O)OCC | C23H23Cl2N5O5
